USRE029843
It will be appreciated that reaction of 1-chloro-2,3-butanedione with thioformamide will lead to 4-acetylthiazoles, similarly, reaction of 2-bromo-3,4hexanedione with thioacetamide will yield 2,5-dimethyl-4-propionylthiazole.

reactant | 1-chloro-2,3-butanedione | ClCC(C(C)=O)=O | C4H5ClO2
reactant | thioformamide | C(=S)N | CH3NS
reactant | 2-bromo-3,4hexanedione | BrC(C)C(C(CC)=O)=O | C6H9BrO2
reactant | thioacetamide | C(C)(=S)N | C2H5NS
product | 2,5-dimethyl-4-propionylthiazole | CC=1SC(=C(N1)C(CC)=O)C | C8H11NOS
